US08293708B2
To a mixture of commercially available N-(4-bromobutyl)phthalimide (2.82 g, 10 mmol) and N-Boc-hydroxylamine (2.08 g, 15.6 mmol) was added acetonitrile (2 ml) and successively 1,8-diazabicyclo[5.4.0]undec-7-ene (2.25 ml, 15 mmol). The reaction mixture was stirred at room temperature for 30 min and then at 50° C. for 2 days. It was diluted with a mixture of water (30 ml) and 1 N hydrochloric acid (20 ml). It was extracted with ethyl acetate (2×100 ml). The organic phase was washed with brine (50 ml) and was dried over magnesium sulphate. The crude product was purified by chromatography on silica (60 g), using a gradient of heptane/ethyl acetate 1:0 to 0:1 as eluent to give 2.08 g of 2-(4-(tert-butoxycarbonylaminoxy)butyl)isoindole-1,3-dione.

reactant | N-(4-bromobutyl)phthalimide | 10 mmol, 2.82 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | N-Boc-hydroxylamine | 15.6 mmol, 2.08 g | C(=O)(OC(C)(C)C)NO | C5H11NO3
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 15 mmol, 2.25 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | water | 30 ml | O | H2O
solvent | hydrochloric acid | 1 N, 20 ml | Cl | ClH
product | 2-(4-(tert-butoxycarbonylaminoxy)butyl)isoindole-1,3-dione | 2.08 g | C(C)(C)(C)OC(=O)NOCCCCN1C(C2=CC=CC=C2C1=O)=O | C17H22N2O5
